US07772256B2
To a stirred solution of [6-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-methyl-carbamic acid tert-butyl ester (66 mg, 0.184 mmol) in dichloromethane (30 mL) at 0° C. under nitrogen atmosphere, BBr3 (1M solution in CH2Cl2, 0.92 mL, 0.92 mmol) was added dropwise. The reaction mixture was stirred at room temperature overnight and then cooled to 0° C. Saturated sodium bicarbonate solution was added and the resulting mixture was extracted subsequently with 5% methanol in dichloromethane and with 5% methanol in ethyl acetate. The organic layers were washed with brine separately, dried over Na2SO4, filtered, concentrated and flash chromatographed using 30% ethyl acetate in hexane to give) 2-(2-fluoro-6-methylamino-pyridin-3-yl)-benzofuran-5-ol (19.9 mg) as a off white solid. 1H NMR (400 MHz, METHANOL-d4) δ: 8.02 (m, 1H), 7.27 (d, J=8.59 Hz, 1H), 6.90 (d, J=2.34 Hz, 1H), 6.77 (d, J=3.51 Hz, 1H), 6.70 (dd, J=8.59, 2.34 Hz, 1H), 6.43 (dd, J=8.59, 1.95 Hz, 1H), 2.89 (s, 3H). ESMS: m/z 259.47 [M+1]+

reactant | [6-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-yl]-methyl-carbamic acid tert-butyl ester | 0.184 mmol, 66 mg | C(C)(C)(C)OC(N(C)C1=NC(=C(C=C1)C=1OC2=C(C1)C=C(C=C2)OC)F)=O | C20H21FN2O4
reactant | BBr3 | 0.92 mmol, 1M, 0.92 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-(2-fluoro-6-methylamino-pyridin-3-yl)-benzofuran-5-ol | 19.9 mg | FC1=NC(=CC=C1C=1OC2=C(C1)C=C(C=C2)O)NC | C14H11FN2O2
